US07582651B2
(3) (2E)-3-{3-cyano-1-[(4-fluorophenyl)(phenyl)methyl]-4,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-2-yl}prop-2-enoic acid
To a solution of ethyl (2E)-3-{3-cyano-1-[(4-fluorophenyl)(phenyl)methyl]-4,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-2-yl}prop-2-enoic acid (7.40 g, 17.0 mmol) in ethanol (70 ml) and THF (80 ml) was added a 1 N aqueous sodium hydroxide solution (34ml), and the mixture was stirred at room temperature for 2 hours. The reaction solution was poured into water, neutralized with 1 N hydrochloric acid and extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure to give the objective product as a solid material. The product was recrystallized from ethyl acetate and hexane.

reactant | ethyl (2E)-3-{3-cyano-1-[(4-fluorophenyl)(phenyl)methyl]-4,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-2-yl}prop-2-enoic acid | 17.0 mmol, 7.40 g | C(C)/C(/C(=O)O)=C\C1=C(C=2C(=NC(=CC2C)C)N1C(C1=CC=CC=C1)C1=CC=C(C=C1)F)C#N | C28H24FN3O2
reactant | sodium hydroxide | 1 N, 34ml | [OH-].[Na+]
reactant | water | O | H2O
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | ethanol | 70 ml | C(C)O | C2H6O
solvent | THF | 80 ml | C1CCOC1 | C4H8O
product | (2E)-3-{3-cyano-1-[(4-fluorophenyl)(phenyl)methyl]-4,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-2-yl}prop-2-enoic acid | C(#N)C1=C(N(C2=NC(=CC(=C21)C)C)C(C2=CC=CC=C2)C2=CC=C(C=C2)F)/C=C/C(=O)O | C26H20FN3O2
